US09422281B2
A reaction vial was charged with (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoyl)piperazine-1-carboxylate (0.2 M in 1,2-dichloroethane, 100 μL, 0.02 mmol), N,N-diisopropylethyl amine (25 μL, 0.14 mmol), and phenyl chloroformate (6.23 mg, 0.04 mmol), and the mixture was shaken at 50° C. for 2 h. Methanol (50 μL) was added and the mixture was shaken at 50° C. for 10 min. HCl (4 M in dioxane, 0.075 mL, 0.30 mmol) was added and the reaction was shaken at 50° C. for 2 h. The mixture was concentrated and the residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford phenyl (S)-4-acetyl-3-methyl-7-(4-(piperazine-1-carbonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 499.

reactant | (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)benzoyl)piperazine-1-carboxylate | 0.02 mmol, 0.2 M, 100 μL | C(C)(=O)N1[C@H](CNC2=CC(=CC=C12)C1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C27H34N4O4
reactant | N,N-diisopropylethyl amine | 0.14 mmol, 25 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl chloroformate | 0.04 mmol, 6.23 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | HCl | 0.30 mmol, 4 M, 0.075 mL | Cl | ClH
solvent | Methanol | 50 μL | CO | CH4O
product | phenyl (S)-4-acetyl-3-methyl-7-(4-(piperazine-1-carbonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C1=CC=C(C=C1)C(=O)N1CCNCC1)C(=O)OC1=CC=CC=C1)C | C29H30N4O4
